US09034866B2
Synthesis of 9-((2-fluoro-1-hydroxycyclopentyl)ethynyl)-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide
Similar to as described in General Procedure G, 9-iodo-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide was reacted with a 1-ethynyl-2-fluorocyclopentanol to give a mixture of titled compounds after purification by HPLC.

reactant | 9-iodo-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide | IC1=CC2=C(OCCC=3N2N=C(C3)C(=O)N)C=C1 | C12H10IN3O2
reactant | 1-ethynyl-2-fluorocyclopentanol | C(#C)C1(C(CCC1)F)O | C7H9FO
product | 9-((2-fluoro-1-hydroxycyclopentyl)ethynyl)-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide | FC1C(CCC1)(O)C#CC1=CC2=C(OCCC=3N2N=C(C3)C(=O)N)C=C1 | C19H18FN3O3
